* source SERS_N1
Q_Q10         N197991 N198809 0 QBC846B 
R_R58         0 N198403  220 TC=0,0 
D_D3         N197861 N197997 D1N4148 
R_R1         N197925 N197647  33 TC=0,0 
R_R56         N205397 N205284  1k TC=0,0 
D_D2         N197647 N197861 D1N4148 
Q_Q7         N197647 N197991 N197835 QBC846B 
Q_Q2         N198137 N198537 N198573 QBC846B 
R_R49         N198151 N198677  2k TC=0,0 
Q_Q5         N198137 N198085 N197647 QBC856B 
V_V2         N197647 0 4Vdc
Q_Q4         N198085 N198085 N197647 QBC856B 
R_RL         0 N197779  {Rload} TC=0,0 
Q_Q1         N198151 N197997 N197925 QBC856B 
R_R5         N205284 N198581  6.8k TC=0,0 
R_R53         N197773 N197779  1 TC=0,0 
D_D1         0 N198151 BZX84-C2V7 
R_R50         N198291 N197991  100 TC=0,0 
R_R2         N1981671 N197997  22k TC=0,0 
R_R7         N197773 N197759  0.47 TC=0,0 
R_R57         0 N1981671  22k TC=0,0 
Q_Q9         N197991 N197759 N197779 QBC846B 
R_R4         N1981871 N198093  100 TC=0,0 
R_R42         0 N198537  47k TC=0,0 
X_D7         N197779 N198227 LED PARAMS: IS=3.9573e-019 RS=2  BV=5 IBV=10e-6   
+       
X_RSET         N198581 N198547 N198393 POT PARAMS: SET={SETVAL} VALUE=2k
X_D6         N197647 N198403 LED PARAMS: IS=3.9573e-019 RS=2  BV=5 IBV=10e-6   
+       
R_R59         0 N198227  51 TC=0,0 
R_R55         N198093 N197779  680 TC=0,0 
X_R51         N198677 N198809 0 POT PARAMS: SET=0.44 VALUE=2k
Q_Q6         N198291 N198137 N197647 QBC856B 
R_R6         N198573 0 330
R_R47         0 N198291  510 TC=0,0 
R_R54         N198393 N1981871  4.7k TC=0,0 
R_R41         N198537 N198151  47k TC=0,0 
Q_Q3         N198085 N198547 N198573 QBC846B 
Q_Q11         N197647 N197835 N197759 QMJD31C 
R_R60         0 N205397  150 TC=0,0 
.PARAM  setval=0 rload=40
