* source SIMULARE_BUCLA_DESCHISA
R_R60         0 N207891  150 TC=0,0 
R_R41         N207549 N207163  47k TC=0,0 
R_R55         N207105 N206789  680 TC=0,0 
Q_Q1         N207163 N207009 N206937 QBC856B 
Q_Q9         N207003 N206769 N206789 QBC846B 
Q_Q10         N207003 N207847 0 QBC846B 
Q_Q2         N207149 N207549 N207585 QBC846B 
X_RSET         N207593 N208301 N207405 POT PARAMS: SET={SETVAL} VALUE=2k
R_R42         0 N207549  47k TC=0,0 
X_D6         N206657 N207415 LED PARAMS: IS=3.9573e-019 RS=2  BV=5 IBV=10e-6   
+       
Q_Q5         N207149 N207097 N206657 QBC856B 
D_D1         0 N207163 BZX84-C2V7 
X_R51         N207709 N207847 0 POT PARAMS: SET=0.4 VALUE=2k
R_R57         0 N2071791  22k TC=0,0 
R_R58         0 N207415  220 TC=0,0 
R_R6         N207585 0 330
Q_Q4         N207097 N207097 N206657 QBC856B 
R_R47         0 N207303  510 TC=0,0 
Q_Q3         N207097 N208294 N207585 QBC846B 
R_R56         N207891 N207719  1k TC=0,0 
D_D3         N206873 N207009 D1N4148 
D_D2         N206657 N206873 D1N4148 
X_D7         N206789 N207239 LED PARAMS: IS=3.9573e-019 RS=2  BV=5 IBV=10e-6   
+       
R_RL         0 N206789  {Rload} TC=0,0 
R_R59         0 N207239  51 TC=0,0 
Q_Q11         N206657 N206847 N206769 QMJD31C 
Q_Q7         N206657 N207003 N206847 QBC846B 
V_V2         N206657 0 4Vdc
R_R2         N2071791 N207009  22k TC=0,0 
R_R53         N206783 N206789  1 TC=0,0 
R_R50         N207303 N207003  100 TC=0,0 
R_R54         N207405 N2071991  4.7k TC=0,0 
R_R49         N207163 N207709  2k TC=0,0 
R_R1         N206937 N206657  33 TC=0,0 
R_R5         N207719 N207593  6.8k TC=0,0 
R_R4         N2071991 N207105  100 TC=0,0 
R_R7         N206783 N206769  0.47 TC=0,0 
Q_Q6         N207303 N207149 N206657 QBC856B 
V_V4         N208305 0 DC 0Vdc AC 1Vac 
C_C1         N208305 N208294  0.1  TC=0,0 
L_L1         N208294 N208301  0.1  
.PARAM  setval=0 rload=40
